US03947593
To 700 ml of water containing 80 g (2.0 mole) of sodium hydroxide is added 85 g (0.27 mole) of N-ethyl-3,6-carbazolediol diacetate. The reaction mixture is heated for one hour then acidified with 3N hydrochloric acid to give N-ethyl-3,6-carbazolediol which is recrystallized from ethanol-water. M.P. 190°-200°C (dec.).

reactant | water | 2.0 mole, 700 ml, 80 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-ethyl-3,6-carbazolediol diacetate | 0.27 mole, 85 g | C(C)(=O)OC=1C=CC=2N(C3=CC=C(C=C3C2C1)OC(C)=O)CC | C18H17NO4
reactant | hydrochloric acid | 3N | Cl | ClH
product | N-ethyl-3,6-carbazolediol | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)O)O | C14H13NO2
